US08012976B2
Methyl 3-(1-ethyl-1H-imidazol-2-yl)-4-oxo-2-phenyl-1,2,3,4-tetrahydroquinoline-5-carboxylate (190 mg, 0.49 mmol) and hydrazine monohydrate (2 mL) were added to methanol (15 mL) and the mixture was stirred room temperature for 3 hrs. Methanol was evaporated and then filtered. The filtrate was concentrated to give 9-(1-ethyl-1H-imidazol-2-yl)-8-phenyl-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one as a white solid (50 mg, yield 28%). 1H-NMR (400 MHz, DMSO-d6) δ (ppm): 0.96 (t, 3H), 3.74-3.79 (m, 2H), 4.61 (d, 1H), 4.95 (d, 1H), 6.78 (dd, 1H), 6.91 (dd, 1H), 7.16 (d, 1H), 7.23-7.31 (m, 4H), 7.37 (s, 3H), 7.57 (t, 1H). LC-MS (ESI) m/z: 358 (M+1)+.

reactant | Methyl 3-(1-ethyl-1H-imidazol-2-yl)-4-oxo-2-phenyl-1,2,3,4-tetrahydroquinoline-5-carboxylate | 0.49 mmol, 190 mg | C(C)N1C(=NC=C1)C1C(NC=2C=CC=C(C2C1=O)C(=O)OC)C1=CC=CC=C1 | C22H21N3O3
reactant | hydrazine monohydrate | 2 mL | O.NN
solvent | methanol | 15 mL | CO | CH4O
product | 9-(1-ethyl-1H-imidazol-2-yl)-8-phenyl-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one | 50 mg, yield 28% | C(C)N1C(=NC=C1)C1C(NC=2C=3C1=NNC(C3C=CC2)=O)C2=CC=CC=C2 | C21H19N5O
